US07829724B2
(R)—N-(1-(4,5-bis(2-(1H-indol-3-yl)ethyl)-4H-1,2,4-triazol-3-yl)-2-(1H-indol-3-yl)ethyl)-2-amino-2-methylpropanamide (Compound 17)
δ (ppm) 22.7 (C—CH2—CH2-indole), 23.6 (CH3 Aib), 23.8 (CH3 Aib), 25.4 (C—CH2—CH2-indole), 26.0 (N—CH2—CH2-indole), 29.6 (CH2 βTrp), 43.9 (N—CH2—CH2-indole), 46.0 (CH αTrp), 56.8 (Cq Aib), 109.5 (C3 indole from N—CH2—CH2-indole), 109.9 (C3 Trp), 111.7 (C7 Trp), 111.9 (C7 indole from N—CH2—CH2-indole and C7 indole from C—CH2—CH2-indole), 113.5 (C3 indole from C—CH2—CH2-indole), 118.3 (C4 indole from N—CH2—CH2-indole), 118.4 (C4 Trp), 118.5 (C5 indole from C—CH2—CH2-indole), 118.7 (C4 indole from C—CH2—CH2-indole), 118.9 (C5 Trp), 119.0 (C5 indole from N—CH2—CH2-indole), 121.3 (C6 Trp), 121.5 (C6 indole from C—CH2—CH2-indole and C6 indole from N—CH2—CH2-indole), 122.8 (C2 Trp, C2 indole from C—CH2—CH2-indole and indole from N—CH2—CH2-indole), 127.1 (C9 Trp), 127.2 (C9 indole from C—CH2—CH2-indole), 127.4 (C9 indole from N—CH2—CH2-indole), 136.5 (C8 Trp and C8 indole from C—CH2—CH2-indole), 136.6 (C8 indole from N—CH2—CH2-indole), 154.5 (Cq triazole), 154.8 (Cq triazole), 171.8 (CO amide).

reactant | Aib | NC(C)(C)C(=O)O | C4H9NO2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | Trp | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | triazole | N1N=NC=C1 | C2H3N3
product | (R)—N-(1-(4,5-bis(2-(1H-indol-3-yl)ethyl)-4H-1,2,4-triazol-3-yl)-2-(1H-indol-3-yl)ethyl)-2-amino-2-methylpropanamide | N1C=C(C2=CC=CC=C12)CCN1C(=NN=C1CCC1=CNC2=CC=CC=C12)[C@@H](CC1=CNC2=CC=CC=C12)NC(C(C)(C)N)=O | C36H38N8O
